US05574032
(S)-6-Fluoro-3-[1-(3-methoxyphenyl-2-methoxypropyl)-4-piperidinyl]-1,2-benzisoxazole
To a solution of 2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2,3-dihydro-3-hydroxy-1H-isoindol-1-one (3.3 g, 11.3 mmol) in dry THF (120 ml) was added potassium tert-butoxide (1.9 g, 16.9 mmol) followed by dimethyl sulfate (1.2 ml, 11.9 mmol) at room temperature, under nitrogen. The reaction mixture was stirred for 21 hours at which time it was filtered through a pad of Celite and the solids washed with EtOAc. The combined filtrates were concentrated to give the crude product. Purification via flash column chromatography (silica gel, 0-20% acetone/DCM) afforded 1.6 g (46%) of the desired product as a solid, m.p. =40°-42° C.

reactant | 2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl]-2,3-dihydro-3-hydroxy-1H-isoindol-1-one | 11.3 mmol, 3.3 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C3=CC=CC=C3C2O)=O)C=C1 | C22H22FN3O3
reactant | potassium tert-butoxide | 16.9 mmol, 1.9 g | CC(C)([O-])C.[K+]
reactant | dimethyl sulfate | 11.9 mmol, 1.2 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | THF | 120 ml | C1CCOC1 | C4H8O
product | (S)-6-Fluoro-3-[1-(3-methoxyphenyl-2-methoxypropyl)-4-piperidinyl]-1,2-benzisoxazole | 1.6 g, 46% | FC1=CC2=C(C(=NO2)C2CCN(CC2)C[C@H](CC2=CC(=CC=C2)OC)OC)C=C1 | C23H27FN2O3
